US09227985B2
5-Nitro-3-pyridin-2-yl-3,4-dihydro-2H-1,4-benzoxazine-3-carbonitrile (80 mg, 0.3 mmol) was dissolved in concentrated hydrochloric acid (3 mL, 100 mmol) and heated to 100° C. for 2 h. The reaction was allowed to cool to room temperature, diluted with water, and the pH was adjusted to pH 7 with sodium bicarbonate. The neutralized solution was then extracted with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, and concentrated to give crude 5-nitro-3-pyridin-2-yl-3,4-dihydro-2H-1,4-benzoxazine-3-carboxylic acid as a solid (0.025 g. 30%). LCMS calculated for C14H12N3O5 (M+H)+: m/z=302.1. found: 301.9.

reactant | 5-Nitro-3-pyridin-2-yl-3,4-dihydro-2H-1,4-benzoxazine-3-carbonitrile | 0.3 mmol, 80 mg | [N+](=O)([O-])C1=CC=CC2=C1NC(CO2)(C#N)C2=NC=CC=C2 | C14H10N4O3
reactant | hydrochloric acid | 100 mmol, 3 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 5-nitro-3-pyridin-2-yl-3,4-dihydro-2H-1,4-benzoxazine-3-carboxylic acid | [N+](=O)([O-])C1=CC=CC2=C1NC(CO2)(C(=O)O)C2=NC=CC=C2 | C14H11N3O5
